data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3201,3614,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6](=[O+:7][C-:8]([CH3:9])[CH3:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:8]([CH3:9])([CH3:10])[O:7][C:6]1([CH3:5])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,12.87829087865044,-58.02158345720351
1245,1361,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([N+:17]#[C:18][C:19](=[O:20])[O:21][CH3:22])[C:23]([CH3:24])=[O:25].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:18]([C:19](=[O:20])[O:21][CH3:22])=[N:17][C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:23]([CH3:24])=[O:25],water,298.15,14.983150198119276,-41.455196953046645
682,742,[CH3:15][C:16]#[N+:17][CH-:18][C:19](=[O:20])[O:21][CH3:22].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:16]([CH3:15])=[N:17][CH:18]2[C:19](=[O:20])[O:21][CH3:22],water,298.15,12.199604550730175,-38.57606560410755
4701,5358,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([NH+:12]=[C:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C:22](=[O:23])[O:24][CH3:25]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:22](=[O:23])[O:24][CH3:25])[NH:12][C:13]1([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,27.04238553505523,-8.029376737367901
3010,3362,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[C:12]#[N+:13][NH-:14]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[NH:14][N:13]=[C:12]2[C:10]([CH3:9])=[O:11],water,298.15,10.505074537332623,-38.6683055739558
5036,5724,[CH3:9][C:10](=[O:11])[C-:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[N+:19]([CH3:20])=[C:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:10]([CH3:9])=[O:11])([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[N:19]([CH3:20])[C:21]1([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,1.839457855533396,-45.71999809157736
4540,5180,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[N:11]#[N+:12][C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[N:11]=[N:12][C:13]2([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,31.53945294262219,-7.147253567783939
2261,2506,[CH3:1]/[C:2]([Br:3])=[C:4](\[CH3:5])[Br:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([NH+:12]=[C:13]([C:14]([CH3:15])=[O:16])[C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[NH:23][CH3:24]>>[CH3:1][C@@:2]1([Br:3])[C@:4]([CH3:5])([Br:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:21](=[O:22])[NH:23][CH3:24])[NH:12][C:13]1([C:14]([CH3:15])=[O:16])[C:17](=[O:18])[O:19][CH3:20],water,298.15,34.527339624027626,-9.005415550647719
4477,5110,[CH3:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C:22]([CH3:23])=[O:24].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)=[N:14][C:13]1([C:11]([CH3:10])=[O:12])[C:22]([CH3:23])=[O:24],water,298.15,21.00319308756881,-17.79139277675129
2930,3265,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][N-:6][O+:7]=[N:8][C:9]([CH3:10])=[O:11]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[N:6]([CH3:5])[O:7][N:8]1[C:9]([CH3:10])=[O:11],water,298.15,19.1256010752289,-51.76389846349982
390,422,[CH3:1][O:2][C:3]#[C:4][Br:5].[CH3:6][NH:7][C:8](=[O:9])[c:10]1[nH+:11][c-:12]([C:13]#[N:14])[c:15](=[O:16])[o:17]1>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[C:12]2([C:13]#[N:14])[NH:11][C:10]1([C:8]([NH:7][CH3:6])=[O:9])[O:17][C:15]2=[O:16],water,298.15,26.82920085599607,-20.629385770154915
3670,4190,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12]([CH3:13])=[O:14])=[N+:15]([CH3:16])[CH-:17][C:18]#[N:19]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12]([CH3:13])=[O:14])[N:15]([CH3:16])[CH:17]1[C:18]#[N:19],water,298.15,21.42427270298825,-22.11790493730409
1733,1918,[CH3:11][NH:12][C:13](=[O:14])[CH:15]=[NH+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:17]([C:18](=[O:19])[NH:20][CH3:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[NH:16][CH:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,22.41244064296669,-15.521068796578763
